Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right lower extremity claudication
 
Major Surgical or Invasive Procedure:
___ stent-in-stent placement, access L groin

 
History of Present Illness:
Mr. ___ is an ___ male who presents with right 
lower extremity claudication. The patient describes having 
undergone prior peripheral vascular procedures in ___.  He had a stent placed to the right SFA.  Since that time, 
he had been
improved, but he was never pain-free. This past ___, he
states his pain has returned.  He has no description of rest
pain.  He has no open wounds.  With regard to his ability to
walk, he states he is able to go approximately ___ of a mile. 

He is able to bike for about one and a half minutes and then he
starts to experience pain. His options were reviewed with him 
and he has made the decision to proceed with angiogram today.

 
Past Medical History:
Past Medical History: high cholesterol, hypertension, peripheral 
vascular disease, dilated cardiomyopathy EF 50%, BPH, chronic 
kidney disease, melanoma s/p resection, Benign ventricular 
ectopy

PAST SURGICAL HISTORY:  Includes the right SFA stent back in 
___ ___s spinal cyst that was removed.  Lastly, it 
includes a right inguinal hernia repair.

 
Social History:
___
Family History:
Includes a history of cancer.

 
Physical Exam:
Discharge Exam:
VS: T 97.1 HR 66 BP 147/58 RR 17 98% on RA
Gen: NAD, AAOx3
CV: RRR
Resp: CTAB
Abd: Soft, NT/ND
Ext: L groin incision c/d/i
Pulses:
   ___
L: d/d/d/d
R: d/d/d/d
 
Pertinent Results:
___:33AM BLOOD Hct-40.3
___ 06:33AM BLOOD Creat-1.4* Na-142 K-4.4 Cl-109*
 
Brief Hospital Course:
The patient presented to pre-op on ___. Pt was 
taken to the operating room for angiography. There were no 
adverse events in the operating room; please see the operative 
note for details. Findings included an occluded right SFA stent 
which was intervened on via right SFA stent-in-stent placement 
to open the stenosis. After the stent-in-stent placement, an 
increase in blood flow was appreciated. The patient was then 
taken to the PACU until stable, then transferred to the ward for 
observation overnight prior to being discharged on POD #1.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with low dose PO oxycodone as 
needed.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet and incentive spirometry were encouraged throughout 
hospitalization. 
GI/GU/FEN: The patient initially had a foley because he was on 
bedrest. On POD #1, the foley was removed and he was allowed to 
ambulate. He was able to void independently.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay. Additionally, his home 
plavix and aspirin were continued.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 
3. Enalapril Maleate 10 mg PO BID 
4. Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR QDAILY 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Timolol Maleate 0.25% 1 DROP RIGHT EYE BID 
7. Fluticasone Propionate NASAL 1 SPRY NU BID 
8. NIFEdipine CR 60 mg PO QPM 
9. Atorvastatin 20 mg PO QPM 
10. Spironolactone 100 mg PO DAILY 
11. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO QHS:PRN pain 
12. Clopidogrel 75 mg PO DAILY 
13. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
14. Aspirin 81 mg PO DAILY 
15. NIFEdipine CR 90 mg PO QAM 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth qdaily Disp #*30 Tablet 
Refills:*0
2. Clopidogrel 75 mg PO DAILY 
3. Enalapril Maleate 10 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. NIFEdipine CR 60 mg PO QPM 
6. NIFEdipine CR 90 mg PO QAM 
7. Atorvastatin 20 mg PO QPM 
8. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 
9. Fluticasone Propionate NASAL 1 SPRY NU BID 
10. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO QHS:PRN pain 
11. Hydrocortisone (Rectal) 2.5% Cream 1 Appl PR QDAILY 
12. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
13. Lidocaine 5% Patch 1 PTCH TD QAM 
14. Spironolactone 100 mg PO DAILY 
15. Timolol Maleate 0.25% 1 DROP RIGHT EYE BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Claudication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow the instructions below:

MEDICATION:
• Take Aspirin 325mg (enteric coated) once daily 
• If instructed, take Plavix (Clopidogrel) 75mg once daily
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications
CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site
SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___